US05204336
(a) 1 3-t-Butyl-4-hydroxy-1-naphthaldehyde
To a 0° solution of 2-t-butyl-1-naphthol (7.6 g, 0.038 mole) in 50 ml of dry dichloromethane was added anhydrous stannic chloride (19.77 g, 0.076 mole). The resulting reaction mixture was stirred at 0° during the dropwise addition of 1,1-dichloromethyl methyl ether (7.75 g, 0.068 mole). The mixture was stirred for 10 minutes at 0° then poured into ice/water. The resulting mixture was extracted with diethyl ether (3×200 ml). The ethereal extracts were washed with water until the aqueous washes had a neutral pH and then dried over magnesium sulphate. The solvent was removed in vacuo to give a solid residue which was triturated with a mixture of diethyl ether: n-pentane (1:4) to give 3.8 g (44% yield) of a crystalline solid, m.p. 195°-196°.

reactant | 2-t-butyl-1-naphthol | 0.038 mole, 7.6 g | C(C)(C)(C)C1=C(C2=CC=CC=C2C=C1)O | C14H16O
reactant | 1,1-dichloromethyl methyl ether | 0.068 mole, 7.75 g | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-t-Butyl-4-hydroxy-1-naphthaldehyde | 3.8 g, 44% yield | C(C)(C)(C)C=1C=C(C2=CC=CC=C2C1O)C=O | C15H16O2
